US08455475B2
(8R)-8-[(2-Chloro-benzoyl)amino]-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid (E-06)
LiOH (4 equiv.) was added to a suspension of (8R)-8-[(2-chloro-benzoyl)amino]-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester (B-06) in methanol and water and the reaction mixture was stirred at 25° C. for 2.5 hours. (According to TLC control: educt still present) The reaction mixture was topped up with 2 equiv. of LiOH and stirred at 25° C. overnight. Methanol was distilled off and the aqueous residue was diluted with ether and dist. water. The phases were separated and the aqueous phase was acidified with 1N HCl. Finally, the aqueous phase was extracted 4× with ethyl acetate (spot test) and the extract was dried over sodium sulfate and concentrated. Yield:81.4%.

reactant | LiOH | 4 equiv. | [Li+].[OH-]
reactant | (8R)-8-[(2-chloro-benzoyl)amino]-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1=CC=2[C@@H](CCCC2C=C1)NC(C1=C(C=CC=C1)Cl)=O | C19H18ClNO3
reactant | LiOH | 2 equiv. | [Li+].[OH-]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | (8R)-8-[(2-Chloro-benzoyl)amino]-5,6,7,8-tetrahydro-naphthalene-2-carboxylic acid | Yield:81.4% | ClC1=C(C(=O)N[C@@H]2CCCC=3C=CC(=CC23)C(=O)O)C=CC=C1 | C18H16ClNO3
